US04591590
To a solution of 1-(6-aminopyridin-2-ylmethyl)-4-benzhydrylpiperazine (3.58 g) and triethylamine (1.01 g) in chloroform (20 ml) was dropwise added methanesulfonylchloride (1.15 g) at 5° to 10° C. under cooling with stirring, which was continued at the same temperature for 1 hour. To the resultant mixture, additional triethylamine (0.51 g) and methanesulfonyl chloride (0.57 g) were added successively. The mixture was stirred for 1.5 hours. The reaction mixture was washed with water, dried and evaporated in vacuo. The resulting oily product was subjected to column chromatography on silica gel eluting with a mixture of chloroform and methanol (30:1). The fractions containing the desired compound were combined and evaporated in vacuo to give a residue. According to a conventional manner, the residue was converted to hydrochloric acid salt, which was recrystallized from a mixture of methanol and diethyl ether to give 1-(6-methanesulfonylaminopyridin-2-ylmethyl)-4-benzhydrylpiperazine dihydrochloride (0.97 g). mp: 201°-202° C.

reactant | 1-(6-aminopyridin-2-ylmethyl)-4-benzhydrylpiperazine | 3.58 g | NC1=CC=CC(=N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H26N4
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 1.15 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.51 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.57 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(6-methanesulfonylaminopyridin-2-ylmethyl)-4-benzhydrylpiperazine dihydrochloride | 0.97 g | Cl.Cl.CS(=O)(=O)NC1=CC=CC(=N1)CN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H28N4O2S.2ClH/c1-31(29,30)26-23-14-8-13-22(25-23)19-27-15-17-28(18-16-27)24(20-9-4-2-5-10-20)21-11-6-3-7-12-21;;/h2-14,24H,15-19H2,1H3,(H,25,26);2*1H
